US04634713
A mixture of 0.46 g of sodium hydroxide in 1.8 ml water and 14 ml ethanol, 1.64 g of p-(cyclopropylmethoxy)-phenol and 5.54 g of epichlorohydrin is stirred at room temperature in a nitrogen atmosphere for 24 hours and left at room temperature for 21/2 days. The solvent is evaporated in vacuo and the residue is taken up in ether, washed with water and sodium chloride solution. After drying over anhydrous magnesium sulfate, the solution is filtered and concentrated under reduced pressure to yield p-(cyclopropylmethoxy)-phenoxymethyloxirane which is used directly in the condensation.

reactant | sodium hydroxide | 0.46 g | [OH-].[Na+]
reactant | p-(cyclopropylmethoxy)-phenol | 1.64 g | C1(CC1)COC1=CC=C(C=C1)O | C10H12O2
reactant | epichlorohydrin | 5.54 g | C(Cl)C1CO1 | C3H5ClO
solvent | water | 1.8 ml | O | H2O
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | p-(cyclopropylmethoxy)-phenoxymethyloxirane | C1(CC1)COC1=CC=C(OCC2OC2)C=C1 | C13H16O3
